US04935430
Ethyl acetimidate hydrochloride (6.757 g, 54.9 mmol) was added to a suspension of N-(4-iodophenyl)-1,2-diaminobenzene (6.812 g, 22.0 mmol) in absolute ethanol (30 ml) at room temperature. After 2 hours, 50 ml of ice cold 2N aqueous sodium hydroxide was added and the product was extracted into ethyl acetate (2×100 ml). The extracts were washed with water (3×100 ml), dried (MgSO4) and concentrated under reduced pressure to give 1-(4-iodophenyl)-2-methylbenzimidazole, 6.695 g as a white solid, m.p. 136°-7° C.

reactant | Ethyl acetimidate hydrochloride | 54.9 mmol, 6.757 g | Cl.C(C)(OCC)=N
reactant | N-(4-iodophenyl)-1,2-diaminobenzene | 22.0 mmol, 6.812 g | IC1=CC=C(C=C1)NC1=C(C=CC=C1)N | C12H11IN2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1-(4-iodophenyl)-2-methylbenzimidazole | IC1=CC=C(C=C1)N1C(=NC2=C1C=CC=C2)C | C14H11IN2
